US04058543
Three di-n-octyltin stabilizers (A,B,C) were prepared from this product by reacting the thiomalate with different proportions of di-n-octyltin oxide. In each instance, the thiomalate was warmed to 55° C, di-n-octyltin oxide added with stirring during a half-hour period, and water aspirator vacuum applied while warming to 80° C, then holding at 80° C for 2 hours to complete the removal of by-product water.

reactant | thiomalate | C(C(S)CC(=O)[O-])(=O)[O-]
reactant | di-n-octyltin oxide | C(CCCCCCC)[Sn](CCCCCCCC)=O
solvent | water | O | H2O
product | di-n-octyltin | C(CCCCCCC)[Sn]CCCCCCCC | InChI=1S/2C8H17.Sn/c2*1-3-5-7-8-6-4-2;/h2*1,3-8H2,2H3;
